US09169254B2
4-Bromo-3-trifluoromethyl-phenylamine (1.00 g, 4.17 mmol) was dissolved in acetic acid (5 ml). Iodine monochloride (1 M solution in dichloromethane, 5 ml) was added and the mixture was stirred at 60° C. overnight. The reaction solution was poured into a mixture of ice and a saturated aqueous sodium bicarbonate solution and then extracted with ethyl acetate. The organic layer was washed with an aqueous sodium bicarbonate solution, an aqueous sodium thiosulfate solution, water and saturated brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (n-hexane-ethyl acetate) to give 4-bromo-2-iodo-5-trifluoromethyl-phenylamine (889 mg, 58%).

reactant | 4-Bromo-3-trifluoromethyl-phenylamine | 4.17 mmol, 1.00 g | BrC1=C(C=C(C=C1)N)C(F)(F)F | C7H5BrF3N
reactant | Iodine monochloride | 1 M, 5 ml | ICl | ClI
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 4-bromo-2-iodo-5-trifluoromethyl-phenylamine | 889 mg, 58% | BrC1=CC(=C(C=C1C(F)(F)F)N)I | C7H4BrF3IN
